US06992087B2
5-(2,4-dichlorophenyl)-N-[(1S,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1S,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine but substituting (1S,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and iodoethane and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.81, 1.17-1.21, 1.30-1.34, 1.51-1.59, 1.98, 3.90-3.96, 4.02-4.08, 6.71-6.73, 7.04-7.07, 7.19; MS (ESI+) for C25H27Cl2N3O m/z 457 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(1S,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1[C@H](CC2=CC=CC=C12)OC)CC | C24H25Cl2N3O
reactant | (1S,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | iodoethane | ICC | C2H5I
product | 5-(2,4-dichlorophenyl)-N-[(1S,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
